US07642264B2
3-[6′-Methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonic acid
The title compound was prepared from the above described 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonic acid 2,2-dimethyl-propyl ester (7.7 g, 14.24 mmol) by refluxing in 1-propanol (15 mL) with sodium propanolate (1.7 M in n-propanol, 20.95 ml, 35.6 mmol) and 2-(diethylamino)ethanthiol (2.48 mL, 16.38 mmol) for 18 h. Cooled to rt, added water (300 mL), added 1 N HCl (ca. 50 mL) until pH 3-4 was reached, stirred for 10 min, filtered the solid off, washed thrice with water, and then with acetone and dried in HV to give the title compound (5.4 g, 81%) as an off-white solid. MS (ISN) 469.1 [(M−H)−].

reactant | 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonic acid 2,2-dimethyl-propyl ester | 14.24 mmol, 7.7 g | CC(COS(=O)(=O)C1=CC(=CC=C1)C1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C)(C)C | C29H27F3N2O3S
reactant | sodium propanolate | 35.6 mmol, 1.7 M, 20.95 ml | C(CC)[O-].[Na+]
reactant | 2-(diethylamino)ethanthiol | 16.38 mmol, 2.48 mL | C(C)N(CCS)CC | C6H15NS
reactant | HCl | 1 N, ca. 50 mL | Cl | ClH
solvent | 1-propanol | 15 mL | C(CC)O | C3H8O
solvent | water | 300 mL | O | H2O
product | 3-[6′-Methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonic acid | 5.4 g, 81% | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)S(=O)(=O)O)C1=CC=C(C=C1)C(F)(F)F | C24H17F3N2O3S
